US07713994B2
To a solution of 3-hydroxy-4-nitrobenzaldehyde O-methyloxime (5.0 g, 25 mmol) in N,N-dimethylformamide (40 mL) is added imidazole (1.8 g, 27 mmol), followed by triisopropylsilyl chloride (6.0 mL, 28 mmol), and 4-(dimethylamino)pyridine (catalytic amount). After stirring overnight at room temperature, the reaction mixture is diluted with diethyl ether (200 mL) and then washed twice with water and once with saturated aqueous sodium chloride solution. The organic phase is then dried over anhydrous magnesium sulfate, filtered, and concentrated under reduced pressure. The crude solid is purified by flash chromatography (hexanes/ethyl acetate) to give 4-nitro-3-[(triisopropylsilyl)oxy]benzaldehyde O-methyloxime as a white solid (6.2 g, 70%).

reactant | 3-hydroxy-4-nitrobenzaldehyde O-methyloxime | 25 mmol, 5.0 g | CON=CC1=CC(=C(C=C1)[N+](=O)[O-])O | C8H8N2O4
reactant | imidazole | 27 mmol, 1.8 g | N1C=NC=C1 | C3H4N2
reactant | triisopropylsilyl chloride | 28 mmol, 6.0 mL | C(C)(C)[Si](C(C)C)(C(C)C)Cl | C9H21ClSi
solvent | N,N-dimethylformamide | 40 mL | CN(C=O)C | C3H7NO
catalyst | 4-(dimethylamino)pyridine | CN(C1=CC=NC=C1)C | C7H10N2
solvent | diethyl ether | 200 mL | C(C)OCC | C4H10O
product | 4-nitro-3-[(triisopropylsilyl)oxy]benzaldehyde O-methyloxime | 6.2 g, 70% | CON=CC1=CC(=C(C=C1)[N+](=O)[O-])O[Si](C(C)C)(C(C)C)C(C)C | C17H28N2O4Si
